US07468457B2
d. Preparation of Methyl 6-benzyloxy-5-tert-butyl-4′-methyl-3-biphenylcarboxylate
12 g (28 mmol) of methyl 4-benzyloxy-3-tert-butyl-5-iodobenzoate are dissolved with 5.8 g (42 mmol) of 4-methylbenzeneboronic acid and 12.7 g (84 mmol) of caesium fluoride in 400 mL of dioxane. The reaction medium is degassed with a flow of nitrogen for 15 minutes, and 1.7 g (1.4 mmol) of tetrakis(triphenylphosphine)palladium are then added. The reaction medium is refluxed for 4 hours and then cooled and hydrolysed. After extraction with ethyl acetate, the organic phase is filtered and concentrated. The residue is purified by chromatography (eluent: 98 heptane/2 ethyl acetate): a colorless oil is obtained (m=9 g, yield=83%).

reactant | methyl 4-benzyloxy-3-tert-butyl-5-iodobenzoate | 28 mmol, 12 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)OC)C=C1I)C(C)(C)C | C19H21IO3
reactant | 4-methylbenzeneboronic acid | 42 mmol, 5.8 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | caesium fluoride | 84 mmol, 12.7 g | [F-].[Cs+]
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 1.4 mmol, 1.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 6-benzyloxy-5-tert-butyl-4′-methyl-3-biphenylcarboxylate | yield=83% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C1=CC=C(C=C1)C)C(=O)OC)C(C)(C)C | C26H28O3
